US04103085
2-(2-Carboxyethyl)-2,3-dihydro-6-mercapto-s-triazolo[4,3-b]pyridazin-3-on
A mixture of 2-(2-carboxyethyl)-6-chloro-2,3-dihydro-s-triazolo[4,3-b]pyridazin-3-on (567 mg., 2.34 m.moles) and 70% sodium hydrosulfide dihydrate (924 mg., 7.02 m.mole) in water (10 ml.) was stirred at room temperature for 2 hours. The reaction mixture was adjusted successively to pH 1 with c. HCl, to pH 10 with NaOH and then to pH 1 with c. HCl. The resulting precipitate of 2-(carboxyethyl)-2,3-dihydro-6-mercapto-s-triazolo[4,3-b]pyridazin-3-on was collected by filtration and washed with water. Yield: 418 mg. (74%). M.p. 174°-176° C.

reactant | 2-(2-carboxyethyl)-6-chloro-2,3-dihydro-s-triazolo[4,3-b]pyridazin-3-on | 567 mg | C(=O)(O)CCN1N=C2N(N=C(C=C2)Cl)C1=O | C8H7ClN4O3
reactant | sodium hydrosulfide dihydrate | 924 mg | O.O.[SH-].[Na+]
reactant | HCl | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 2-(2-Carboxyethyl)-2,3-dihydro-6-mercapto-s-triazolo[4,3-b]pyridazin-3-on | C(=O)(O)CCN1N=C2N(N=C(C=C2)S)C1=O | C8H8N4O3S
